US07687508B2
To a solution of tert-butyl (1R,3R,4S)-4-((S)-3-amino-2-oxopyrrolidin-1-yl)-3-propionamidocyclohexylcarbamate (650 mg, 1.764 mmol) in 5 mL of isopropanol was added 4-chloro-6-(trifluoromethyl)quinazoline (492 mg, 2.117 mmol) and triethylamine (0.492 mL, 3.53 mmol). The mixture was stirred at 50° C. for 4 h. The solvent was removed under reduced pressure and the residue was diluted with 30 mL of 20% AcOH in water before being extracted with diethyl ether (2×20 mL). The ethereal layer was extracted with 20% AcOH solution in water (3×30 mL). The aqueous layers were combined and basified with Na2CO3 and extracted with methylene chloride (3×50 mL). The organic extracts were combined, washed with brine (40 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure to give tert-butyl (1R,3R,4S)-4-((S)-2-oxo-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-1-yl)-3-propionamidocyclohexylcarbamate, LC/MS found [M+H]+=565. The entirety of this crude product was dissolved in 5 mL of methylene chloride. The resultant solution was charged with TFA (3 mL), stirred at room temperature for 30 min, and then concentrated in vacuo. The residue was purified with preparative reverse-phase HPLC to give the title compound as its TFA salt in aqueous methanol solution. This solution was concentrated in vacuo to remove the methanol and the residue solution was basified with saturated NaHCO3 and extracted with methylene chloride (3×50 mL), dried (Na2SO4) and concentrated in vacuo to give the title compound as its free base (550 mg, 1.184 mmol, 67% yield). LC/MS found [M+H]+=465. 1H-NMR (400 MHz, CD3OD), δ ppm: 8.77 (1H, s), 8.57 (1H, s), 8.03 (1H, dd, J=9.16, 2.03 Hz), 7.88 (1H, d, J=8.65 Hz), 5.24 (1H, t, J=8.65 Hz), 4.55 (1H, d, J=3.56 Hz), 3.97-4.05 (1H, m), 3.52-3.67 (2H, m), 3.35-3.41 (1H, m), 2.47-2.58 (1H, m), 2.20-2.34 (3H, m), 1.62-2.04 (6H, m), 1.14 (3H, t, J=7.63 Hz).

reactant | tert-butyl (1R,3R,4S)-4-((S)-3-amino-2-oxopyrrolidin-1-yl)-3-propionamidocyclohexylcarbamate | 1.764 mmol, 650 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)NC(CC)=O)=O | C18H32N4O4
reactant | 4-chloro-6-(trifluoromethyl)quinazoline | 2.117 mmol, 492 mg | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
reactant | triethylamine | 3.53 mmol, 0.492 mL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | tert-butyl (1R,3R,4S)-4-((S)-2-oxo-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-1-yl)-3-propionamidocyclohexylcarbamate | O=C1N(CC[C@@H]1NC1=NC=NC2=CC=C(C=C12)C(F)(F)F)[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)NC(CC)=O | C27H35F3N6O4
